US07163940B2
[6-[7-Chloro-2-(4-fluorophenyl)pyrazolo[1,5-α]pyridin-3-yl]-2-(cyclopentylamino)-4-pyrimidinyl]methanol (215 mg, 0.49 mmol) was dissolved in a mixture of benzene (4 mL) and ether (8 mL). Imidazole (134 mg, 2.0 mmol) and triphenylphosphine (191 mg, 0.73 mmol) were added sequentially. A solution of iodine (179 mg, 0.71 mmol) in ether (5 mL) was added dropwise to the reaction mixture over 10 minutes. The resultant solution was stirred for an additional 20 minutes then diluted with 10 mL of ether. The mixture was filtered to remove solids. Concentration followed by flash chromatography (4:1 hexanes:ethyl acetate) provided 4-[7-chloro-2-(4-fluorophenyl)pyrazolo[1,5-α]pyridin-3-yl]-N-cyclopentyl-6-(iodomethyl)-2-pyrimidinamine (160 mg, 60%) as a solid. Rf 0.47 (4:1 hexanes:ethyl acetate); 1H NMR (CDCl3) δ 8.38 (d, 1H), 7.67 (m, 2H), 7.28 (m, 1H), 7.18 (t, 2H), 7.03 (d, 1H), 6.38 (s, 1H), 5.19 (d, 1H), 4.35 (m, 1H), 4.02 (s, 2H), 2.10 (m, 2H), 2.67 (m, 6H).

reactant | [6-[7-Chloro-2-(4-fluorophenyl)pyrazolo[1,5-α]pyridin-3-yl]-2-(cyclopentylamino)-4-pyrimidinyl]methanol | 0.49 mmol, 215 mg | ClC1=CC=CC=2N1N=C(C2C2=CC(=NC(=N2)NC2CCCC2)CO)C2=CC=C(C=C2)F | C23H21ClFN5O
reactant | Imidazole | 2.0 mmol, 134 mg | N1C=NC=C1 | C3H4N2
reactant | triphenylphosphine | 0.73 mmol, 191 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | iodine | 0.71 mmol, 179 mg | II | I2
solvent | benzene | 4 mL | C1=CC=CC=C1 | C6H6
solvent | ether | 8 mL | CCOCC | C4H10O
solvent | ether | 5 mL | CCOCC | C4H10O
solvent | ether | 10 mL | CCOCC | C4H10O
product | 4-[7-chloro-2-(4-fluorophenyl)pyrazolo[1,5-α]pyridin-3-yl]-N-cyclopentyl-6-(iodomethyl)-2-pyrimidinamine | 160 mg, 60% | ClC1=CC=CC=2N1N=C(C2C2=NC(=NC(=C2)CI)NC2CCCC2)C2=CC=C(C=C2)F | C23H20ClFIN5
